US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-methyl-1H-imidazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (300 mg, 1.092 mmol) and 1-methyl-1H-imidazole-4-carboxylic acid (207 mg, 1.638 mmol). The product was purified twice by Flash-chromatography (normal phase and reverse phase). Yield 38.7%. 1H-NMR (400 MHz; CDCl3): δ 1.26 (d, 3H), 2.56 (s, 3H), 3.74 (s, 3H), 4.30-4.43 (m, 2H), 4.49-4.61 (m, 1H), 6.41 (d, 1H), 7.35 (d, 1H), 7.39 (d, 1H), 7.49-7.56 (m, 3H), 7.60 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.092 mmol, 300 mg | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 1.638 mmol, 207 mg | CN1C=NC(=C1)C(=O)O | C5H6N2O2
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-methyl-1H-imidazole-4-carboxamide | Yield 38.7% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C)C | C19H19ClN6O
